US09260439B2
Step 1: Preparation of 2-[(tert-butoxycarbonyl)amino]-2-methylpropyl 4-methoxybenzoate
To a solution of tert-butyl(1-hydroxy-2-methylpropan-2-yl)carbamate (0.95 g, 5.0 mmol) and diisopropylethylamine (0.87 mL, 5.0 mmol) in DCM (25 mL) was added 4-methoxybenzoyl chloride (0.69 mL, 5.0 mmol) at room temperature and the mixture was stirred for 4 h. The reaction mixture was partitioned between DCM and 50% brine solution. The organic layer was separated, dried with Na2SO4, filtered and concentrated. The residue was dissolved in ethyl acetate and washed with 0.5 M hydrochloric acid. The organic layer was separated, dried with Na2SO4, filtered, and concentrated. The residue was purified by silica gel chromatography using gradient elution of ethyl acetate in heptane (0-25%) to give the title compound (0.55 g, 34%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.09-7.90 (m, 2 H), 7.04-6.81 (m, 2 H), 4.65 (br s, 1 H), 4.35 (s, 2H), 3.88 (s, 3 H), 1.44 (s, 9 H), 1.40 (s, 6 H). m/z (APCI+) for C17H25NO5 224.1 (M-tBuCO2—+H)+.

reactant | tert-butyl(1-hydroxy-2-methylpropan-2-yl)carbamate | 5.0 mmol, 0.95 g | C(C)(C)(C)OC(NC(CO)(C)C)=O | C9H19NO3
reactant | diisopropylethylamine | 5.0 mmol, 0.87 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-methoxybenzoyl chloride | 5.0 mmol, 0.69 mL | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-[(tert-butoxycarbonyl)amino]-2-methylpropyl 4-methoxybenzoate | 0.55 g, 34% | COC1=CC=C(C(=O)OCC(C)(C)NC(=O)OC(C)(C)C)C=C1 | C17H25NO5
